US07759340B2
(a) 2-chloro-N,N-bis[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]acetamide
To a solution chloroacetyl chloride (1.2 mL, 15.2 mmol) in DCM (65 mL) at 0° C. was added dropwise a solution of 2,2′-(iminodi-2,1-ethanediyl)bis(1H-isoindole-1,3(2H)-dione) (5 g, 13.7 mmol) [prepared according to Anelli, P. L.; et. al. J. Org. Chem. 1984 49, 4197.] and Et3N (2.5 mL, 17.9 mmol) in DCM (65 mL). After 1 h, the solution was partitioned between H2O-DCM and the aqueous phase was washed several times with DCM. The combined organic fractions were dried (Na2SO4), concentrated and purified via column chromatography (silica, 5% MeOH in DCM (NH4OH)) yielding the title compound (5.9 g, 98%) as a yellow foam: LCMS (ES) m/e 440 (M+H)+.

reactant | chloroacetyl chloride | 15.2 mmol, 1.2 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | 2,2′-(iminodi-2,1-ethanediyl)bis(1H-isoindole-1,3(2H)-dione) | 13.7 mmol, 5 g | N(CCN1C(C2=CC=CC=C2C1=O)=O)CCN1C(C2=CC=CC=C2C1=O)=O | C20H17N3O4
reactant | Et3N | 17.9 mmol, 2.5 mL | CCN(CC)CC | C6H15N
solvent | DCM | 65 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 65 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-N,N-bis[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]acetamide | 5.9 g, 98% | ClCC(=O)N(CCN1C(C2=CC=CC=C2C1=O)=O)CCN1C(C2=CC=CC=C2C1=O)=O | C22H18ClN3O5
